US09449726B2
All animal studies were approved by the Animal Studies Committee at Washington University. 99mTc-MDP was prepared using commercially available kits. 3.9 mg of a sterile lyophilized powder containing methylene diphosphonate as the main constituent, under the trade name MDP-BRACCO™ (Bracco Diagnostics Inc., Princeton, N.J.) was dissolved in 135 μL saline solution. From this solution 10 μL was pipetted and added to the 400 μL of 1.6×108Bq (4.3 mCi)99mTcO4− containing saline solution. Radio-ITLC was performed on this solution as described above. 100 μL of the prepared radiopharmaceutical with an activity of 2.0×107 Bq (0.55 mCi) was injected into one month old normal CD1 mice via tail vein followed by small animal SPECT/CT imaging (nanoSPECT, Bioscan, Washington D.C.). CT scans were performed using a tube voltage of 45 kV and a scan time of 1.5 seconds per projection while the animals were anesthetized by isofluorane. SPECT data were collected by monitoring in as helical scan at 45 projections and 60 seconds per projection using a 9-pinhole low energy collimator. SPECT images were collected for 45 minutes at 1.5, 3 and 4 hours post injection. The CT and SPECT images were reconstructed and colocalized using InVivoScope (inviCRO, LLC, Boston Mass.) and HiSPECT (Bioscan, Washington, D.C.).

reactant | methylene diphosphonate | P1(=O)OCOP(O1)=O | CH4O5P2
reactant | MDP-BRACCO | C(P(=O)(O)O)P(=O)(O)O | CH6O6P2
reactant | 99mTcO4 | [O-][99Tc](=O)(=O)=O.[Na+]
reactant | isofluorane | [C-]([O+]=C(C(F)(F)F)Cl)(F)F | C3ClF5O
product | 99mTc-MDP | C(P(=O)([O-])[O-])P(=O)([O-])[O-].[OH3+].[OH3+].[99Tc+4] | InChI=1S/CH6O6P2.2H2O.Tc/c2-8(3,4)1-9(5,6)7;;;/h1H2,(H2,2,3,4)(H2,5,6,7);2*1H2;/q;;;+4/p-2/i;;;1+1
